US07342019B2
N-(1-piperidinyl)-5,6-diphenyl-2-pyrazinecarboxamide
5,6-Diphenyl-pyrazine-2-carboxylic acid (500 mg, 1.81 mmol) from Preparation A, step (a), was dissolved in DCM (4 ml) and DMF (150 μl). DMAP (22 mg, 0.18 mmol) and 1-aminopiperidine (218 mg, 2.17 mmol) were added and the solution was cooled to 0° C. A slurry of EDC (1.99 mmol, in 2 mL DCM and 100 μl DMF) was added dropwise. The reaction mixture was stirred at 25° C. After 17 hours additional 1-aminopiperidine (40 mg, 0.40 mmol) and EDC (76 mg, 0.40 mmol) was added, and the mixture was stirred for an additional 3 hours. The crude was diluted with DCM (5 ml) and washed with a saturated solution of NaHCO3. The organic phase was dried (MgSO4), filtered and evaporated. Flash chromatography (SiO2, ethyl acetate:hexane 2:1) gave the subtitle compound (160 mg, 25%) as a white solid.

reactant | 5,6-Diphenyl-pyrazine-2-carboxylic acid | 1.81 mmol, 500 mg | C1(=CC=CC=C1)C=1N=CC(=NC1C1=CC=CC=C1)C(=O)O | C17H12N2O2
reactant | 1-aminopiperidine | 2.17 mmol, 218 mg | NN1CCCCC1 | C5H12N2
reactant | EDC | 1.99 mmol, 2 mL
reactant | 1-aminopiperidine | 0.40 mmol, 40 mg | NN1CCCCC1 | C5H12N2
reactant | EDC | 0.40 mmol, 76 mg
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 150 μl | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.18 mmol, 22 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | N-(1-piperidinyl)-5,6-diphenyl-2-pyrazinecarboxamide | 160 mg, 25% | N1(CCCCC1)NC(=O)C1=NC(=C(N=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C22H22N4O
